US08729263B2
To a solution of methyl 3-(benzyloxy)-4-bromo-5-methoxybenzoate (3.72 g, 10.59 mmol) in 1:1 MeOH/THF (50 mL) was added aqueous sodium hydroxide (1 M, 53.0 mL, 53.0 mmol). After 10 minutes the volatiles were removed under reduced pressure and the solution acidified to pH 1 by addition of concentrated hydrochloric acid resulting in formation of a thick white precipitate. The mixture was extracted with ethyl acetate (2×), and DCM (3×). The combined extracts were washed with brine, dried over magnesium sulfate and concentrated to provide 3-(benzyloxy)-4-bromo-5-methoxybenzoic acid as a white solid (3.41 g). MS (M−1)=335.0. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.21-7.49 (m, 7H), 5.16 (s, 2H), 3.91 (s, 3H).

reactant | methyl 3-(benzyloxy)-4-bromo-5-methoxybenzoate | 10.59 mmol, 3.72 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1Br)OC | C16H15BrO4
reactant | sodium hydroxide | 53.0 mmol, 1 M, 53.0 mL | [OH-].[Na+]
solvent | MeOH THF | 50 mL | CO.C1CCOC1
product | 3-(benzyloxy)-4-bromo-5-methoxybenzoic acid | 3.41 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1Br)OC | C15H13BrO4
